* source LAB 1
V_V1         N00092 0 15Vdc
R_R1         N00092 N01122  3.3k TC=0,0 
R_R2         N01122 N01126  4.7k TC=0,0 
R_R3         0 N01126  5.6k TC=0,0 
