* source LAB 2
R_R2         0 N04264  10k TC=0,0 
R_R6         0 N04268  1k TC=0,0 
R_R1         N04256 N04264  1k TC=0,0 
V_E         N04256 0 12Vdc
R_R4         0 N04286  3.3k TC=0,0 
R_R3         N04264 N04286  4.7k TC=0,0 
R_R5         N04286 N04268  1k TC=0,0 
