* source LAB 3
V_V1         N01159 0 10Vdc
R_R1         N01183 N01159  0.56k TC=0,0 
R_R2         0 N01183  0.56k TC=0,0 
R_R3         0 N01183  10k TC=0,0 
