* source LAB 4
V_V1         N00484 0 10Vdc
R_R1         N01602 N00484  5k TC=0,0 
R_R2         N01624 N01602  5k TC=0,0 
R_R3         N01628 N01602  5k TC=0,0 
R_R4         0 N01624  15k TC=0,0 
R_R5         0 N01628  15k TC=0,0 
