* source LAB 7
V_V1         N00595 0  
+PULSE 0 5 1e-12 1e-12 1e-12 50000 100000
C_C         N00621 0  100  TC=0,0 
R_R         N00595 N00621  100 TC=0,0 
